US07429665B2
2-[4-(1-Ethyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting ethyl hydrazine provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.35 (bs, 2H), 8.19 (d, J=8.3 Hz, 1 H), 8.07 (d, J=9.1 Hz, 1 H), 7.82 (d, J=7.9 Hz, 1H), 7.73 (t, J=8.3 Hz, 1H), 7.67 (d, J=8.3 Hz, 2 H), 7.62 (s, 1H), 7.55 (t, J=7.9 Hz, 1 H), 7.37 (d, J=9.1 Hz, 2H), 7.21 (bs, 2 H), 7.01 (d, J=8.7 Hz, 2H) 5.39 (s, 2H), 4.24 (q, J=7.5 Hz, 2H), 1.56 (t, J=7.5 Hz, 3H); MS: (M+H m/z=407.3).

reactant | 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | ethyl hydrazine | C(C)NN | C2H8N2
product | 2-[4-(1-Ethyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | C(C)N1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C26H22N4O
